US05250553
30.3 g (0.30 mole) of triethylamine are added to a solution of 36.5 g (0.28 mole) of 2-indanone and 32.4 g (0.30 mole) of trimethylchlorosilane in 300 ml of tetrahydrofuran at room temperature while stirring. Stirring is continued for a further 3 hours at room temperature (20° C.), the precipitate which has separated out is filtered off under suction and the filtrate is evaporated down. The residue is purified by distillation (53° C., 0.3 mbar). 40.6 g (72%) of 2-trimethylsilyloxy-1H-indene are obtained as a colorless liquid in this manner.

reactant | triethylamine | 0.30 mole, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-indanone | 0.28 mole, 36.5 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | trimethylchlorosilane | 0.30 mole, 32.4 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-trimethylsilyloxy-1H-indene | 40.6 g, 72% | C[Si](OC=1CC2=CC=CC=C2C1)(C)C | C12H16OSi
